US07179912B2
2-Hydroxy-4-morpholin-4-yl-benzaldehyde
DMF (10 mL) was treated dropwise with phosphorus oxychloride (2.3 g, 15 mmol). The reaction was kept at 25° C. by cooling on ice. The reaction mixture was treated with 3-(4-morpholinyl)phenol (2.5 g, 14 mmol) in small portions, stirred for 30 min at room temperature, then stirred at 100° C. for 8 h. After cooling, the mixture was poured into aqueous sodium acetate (1 M, 40 mL) and 10 mL of water was added. The resulting precipitate was collected by filtration, washed with water (10 mL), air dried, and purified by flash chromatography (silica gel, 4×7.5 cm, eluted with 90/10 CHCl3/ether) to yield the product as a light gray solid (0.66 g, 23%). See U.S. Pat. No. 4,147,552.

reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 15 mmol, 2.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(4-morpholinyl)phenol | 14 mmol, 2.5 g | N1(CCOCC1)C=1C=C(C=CC1)O | C10H13NO2
reactant | sodium acetate | 1 M, 40 mL | C(C)(=O)[O-].[Na+]
solvent | water | 10 mL | O | H2O
product | 2-Hydroxy-4-morpholin-4-yl-benzaldehyde | 0.66 g, 23% | OC1=C(C=O)C=CC(=C1)N1CCOCC1 | C11H13NO3
